US06653471B2
A solution of 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester (516 mg) and 48% hydrobromic acid (5 mL) is heated at 600 for 60 hours. The mixture is cooled to room temperature and concentrated in vacuo. The residue is slurried with diethyl ether and the ether is decanted off. This is repeated until no more color is visible in the ether layer. The remaining solid is dried in vacuo to give 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide, 350 mg, brown solid: 1H NMR(DMSO-d6) 3.17 (2H, t), 4.40 (2H, t), 7.35 (1H, d), 7.57 (1H, d), 7.63 (1H, s) 12.34 (1H, s), 12.45 (1H, s).

reactant | 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid methyl ester | 516 mg | COC(=O)C1=CNC=2CCN3C=CN=C3C12 | C11H11N3O2
reactant | hydrobromic acid | 5 mL | Br | BrH
product | 5,6-dihydro-4H-1,3a,6-triaza-as-indacene-8-carboxylic acid hydrobromide | Br.N=1C=CN2CCC=3NC=C(C3C12)C(=O)O | InChI=1S/C10H9N3O2.BrH/c14-10(15)6-5-12-7-1-3-13-4-2-11-9(13)8(6)7;/h2,4-5,12H,1,3H2,(H,14,15);1H
